US06627629B2
Part F: Preparation of (3S,4R)-4-[3-(3-acetyl-phenyl)-ureido]-3-[(S)-3-(4-fluoro-benzyl)-piperidine-1-carbonyl]-piperidine-1-carboxylic acid t-butyl ester
In a dry flask (3S,4R)-4-amino-3-[(S)-3-(4-fluoro-benzyl)-piperidine-1-carbonyl]-piperidine-1-carboxylic acid t-butyl ester (43 mg, 0.10 mmol) was dissolved in tetrahydrofuran (2 mL) and then triethylamine (19 μL, 0.14 mmol) and 3-acetylphenylisocyanate (17 μL, 0.12 mmol) were added. After stirring for 18 hours, removed half of the reaction mixture for purification. The remainder of the reaction mixture was taken onto the next reaction without purification. The aliquot was purified by preparative reverse-phase HPLC (10-80% acetonitrile in water with 0.05% trifluoroacetic acid) to give a white amorphous solid (17 mg, 57%). 1H NMR (400 MHz, DMSO-d6, 120° C.), δ: 8.64 (s, 1H), 7.94 (m, 1H), 7.57 (d, J=8, 1H), 7.46 (d, J=8, 1H), 7.33 (t, J=8, 1H), 7.17 (m, 2H), 7.00 (t, J=9, 2H), 6.13 (d, J=8, 1H), 4.07 (m, 1H), 3.87 (m, 1H), 3.61 (m, 1H), 3.42 (dd, J=14, J′=4, 1H), 3.32 (m, 1H), 2.98 (m, 2H), 2.70 (m, 1H), 2.50 (m, 1H), 2.49 (s, 3H), 2.02 (m, 1H), 1.73 (m, 3H), 1.53 (m, 1H), 1.39 (s, 9H), 1.22 (m, 2H). HRMS (ESI), C32H42FN4O5 m+/z: calc.=581.3139, found=581.3149.

reactant | (3S,4R)-4-amino-3-[(S)-3-(4-fluoro-benzyl)-piperidine-1-carbonyl]-piperidine-1-carboxylic acid t-butyl ester | 0.10 mmol, 43 mg | C(C)(C)(C)OC(=O)N1C[C@@H]([C@@H](CC1)N)C(=O)N1C[C@@H](CCC1)CC1=CC=C(C=C1)F | C23H34FN3O3
reactant | triethylamine | 0.14 mmol, 19 μL | C(C)N(CC)CC | C6H15N
reactant | 3-acetylphenylisocyanate | 0.12 mmol, 17 μL | C(C)(=O)C=1C=C(C=CC1)N=C=O | C9H7NO2
solvent | tetrahydrofuran | 2 mL | O1CCCC1 | C4H8O
product | (3S,4R)-4-[3-(3-acetyl-phenyl)-ureido]-3-[(S)-3-(4-fluoro-benzyl)-piperidine-1-carbonyl]-piperidine-1-carboxylic acid t-butyl ester | 17 mg, 57% | C(C)(C)(C)OC(=O)N1C[C@@H]([C@@H](CC1)NC(=O)NC1=CC(=CC=C1)C(C)=O)C(=O)N1C[C@@H](CCC1)CC1=CC=C(C=C1)F | C32H41FN4O5
